*********************************************************************************
*										*
*	    ,o888888o.    888888888888.   88888888888888 88888888888888		*
*	   8888     `88.  888888    `88.  888888         888888         	*
*	,888888       `8. 888888     `88  888888         888888         	*
*	8888888           888888     ,88  888888         888888         	*
*	8888888           888888.   ,88'  88888888888888 88888888888888 	*
*	8888888           888888888888'   888888         888888         	*
*	8888888           888888`8b       888888         888888         	*
*	`888888       .8' 888888 `8b.     888888         888888         	*
*	   8888     ,88'  888888   `8b.   888888         888888         	*
*	    `8888888P'    888888     `88. 88888888888888 88888888888888		*
*										*
*********************************************************************************
*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied 
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************

***********************************************************
****	Cree SiC MOSFET CPM2-1200-0025B Spice Library Beta Version
****	Version 2.0 Date: 7-25-2017
****	Version 3.0 Date: 01-22-2018
***********************************************************
****	Revision record
****	Version Beta	Initial Release
****	Version 1	Included model number at subcircuit to avoid library overlapping when two Modfet models called
****	Version 2	Rename and remove Tc
****	Version 3	This spice model is compatible to both Ltspice and Orcad Pspsice
*********************************************************************************
****NO Parasitics Included
****Tj = Junction Temperature
****D = Drain
****G = Gate
****S = Source
***********************************************************

.subckt CPM2-1200-0025B d g s Tj

xgmos	d1 g1 s1 Tj gmos_CPM2-1200-0025B 
Ls 		s	s1	1f
R_Ls 		s	s1      10
Rg 		g1	g2	1.1
Lg 		g	g3	1f
R_Lg		g	g3	10
Ld 		d	d3      1f
R_Ld		d	d3	10

G1		d2	d1      Value {(V(d2,d1))/((0.0000007714*((V(Tj))**2)+0.0000978571*(V(Tj))+0.0231428571)+1n)}
R_A		d2	d1	1E12
Vgate_s		g3	g2	0
Vdrain_s	d3	d2	0
Gheat		0	Tj	value {abs((V(d,s)*I(Vdrain_s)))+abs((V(g1,g2)*I(Vgate_s)))}
XCGD		d1	g1	cgdmos_CPM2-1200-0025B 
CGS		g1	s1	2825.325p
CDS		d2	s1	70p
D1		s1	d2	bodydiode_CPM2-1200-0025B
D2		s1	d2	bodydiode_CPM2-1200-0025B
D3		s1	d2	bodydiode_CPM2-1200-0025B

.ends CPM2-1200-0025B 
*****************************************

.subckt gmos_CPM2-1200-0025B d1 g1 s1 Tj

.param Adj = 0.55
e2		NET1	0	Value {(-0.0237528571*(V(Tj))+26.30875)}
R_B		NET1	0 	1E12

e3		NET2	0	Value {((0.0000290194*((V(Tj))**2)-0.0144927440*(V(Tj))+6.6778449647)*Adj)}
R_C		NET2	0 	1E12

.param p3  = 13
.param p4  = 0.0257											
.param p5  = 2.2
.param p6  = 2.0
.param p7  = 0.5
.param p8  = 0.001
.param p9  = {2*p3*p4}
.param p10 = {p9*p4}
.param p11 = -10
.param p12 = 25

R100 g2 s1	1e9
E100 g2 s1 	value {limit(V(g1,s1),p11,p12)} 
G1 d1 s1 value {
+	if(V(d1,s1)<0,
+		-p10*V(NET1,0)*((log(1+exp((v(g2,s1)-V(NET2,0))/p9)))**p5)*(1+p8*v(s1,d1))+
+		p10*V(NET1,0)*((log(1+exp((v(g2,s1)-V(NET2,0)-p6*(v(s1,d1))**p7)/p9)))**p5)*(1+p8*v(s1,d1))
+		,
+		p10*V(NET1,0)*((log(1+exp((v(g2,s1)-V(NET2,0))/p9)))**p5)*(1+p8*v(d1,s1))-
+		p10*V(NET1,0)*((log(1+exp((v(g2,s1)-V(NET2,0)-p6*(v(d1,s1))**p7)/p9)))**p5)*(1+p8*v(d1,s1))
+		)
+			}


.ends gmos_CPM2-1200-0025B
****************************************

.model bodydiode_CPM2-1200-0025B d(is=1.2e-12 cjo=842.1649p bv=1600 m=0.58729 EG=3.26 vj=3.82 n=3.9 
+	rs=0.02  trs1=-0.0047035655  trs2=0.0000227057 Tnom=25
+	tt=15n ibv=500u Xti=12 level=1)
****************************************

.subckt cgdmos_CPM2-1200-0025B d2 g
.param k1=1702.69p
.param k2=0.545
.param ka=18.096
.param kb=0.2678
.param kc=7.5277
G11 g d1 value {
+		k1*(
+		(1+(limit(v(d1,g),0,500))*(1+ka*(1+TANH(kb*V(d1,g)-kc))/2))**-k2
+		)*ddt(v(g,d1))
+			}
R_CGD d1 d2 1e-3
C_CGD g d1 1p
.ends cgdmos_CPM2-1200-0025B
***************************************
                               